Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Taxol / lisinopril / Doxil
 
Attending: ___.
 
Chief Complaint:
Encounter for desensitization to paclitaxel

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old woman with recurrent ovarian 
cancer (BRCA2+) who presents for C2D1 Carboplatin/Paclitaxel 
with paclitaxel desensitization.

She had C1 Carboplatin/Paclitaxel on ___ with paclitaxel 
desensitization. Tolerated treatment well aside from some slight 
chest pressure resolved with extra dose of Benadryl. Otherwise 
had some myalgias and nausea in the days after chemotherapy. 

On arrival to the floor, patient feels well. She denies recent 
FC and no URTI. Had a flu shot and no sick contacts. No CP, SOB 
or cough. No abdominal pain and she is moving bowel normally. No 
rashes noted. 

REVIEW OF SYSTEMS: 
A complete 10-point review of systems was performed and was 
negative unless otherwise noted in the HPI.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- ___ Presented with abdominal bloating and work-up was
consistent with ovarian cancer. 
- ___ optimal debulking surgery for stage IIIA ovarian
cancer, grade 3 serous
- ___ BRCA2 mutation (___)
- ___ Completed IP chemotherapy x 6 cycles
- ___ Asymptomatic rise in CA125
- ___ Doxil severe anaphylactic reaction requiring
hydrocortisone/benadryl/epinephrine with observation in the ER. 
- ___ C1 Carboplatin/Paclitaxel via desensitization protocol
 
PAST MEDICAL HISTORY: 
- HTN
- L5-S1 disc herniation
- Sciatica
- Prepatellar bursitis
- ___ right breast biopsy benign
- History of SBOs

 
Social History:
___
Family History:
- Father ___ ca
- P-aunt breast and ovarian cancers
- Mother melanoma
- MGM colon ca
- maternal cousin- breast BRCA2+

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: T 98.1 HR 98 BP 133/65 RR 16 SAT  99% O2 on RA
GENERAL: Pleasant well appearing woman who appears her stated 
age
in no distress. 
EYES: Anicteric sclerea, PERLL, EOMI; 
ENT: Oropharynx clear without lesion, JVD not elevated 
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or
gallops; 2+ radial pulses
RESPIRATORY: Appears in no respiratory distress, clear to
auscultation bilaterally, no crackles, wheezes, or rhonchi
GASTROINTESTINAL: Normal bowel sounds; nondistended; soft,
nontender without rebound or guarding
MUSKULOSKELATAL: Warm, well perfused extremities without lower
extremity edema; Normal bulk 
NEURO: Alert, oriented, motor and sensory function grossly 
intact
SKIN: No significant rashes
LYMPHATIC: No cervical, supraclavicular, submandibular
lymphadenopathy. No significant ecchymoses

DISCHARGE EXAM 
No significant change from above.
 
Pertinent Results:
Please see OMR. No labs drawn this admission.
 
Brief Hospital Course:
PRINCIPLE REASON FOR ADMISSION:
Ms. ___ is a ___ year old woman with recurrent ovarian 
cancer (BRCA2+) who presents for C2D1 Carboplatin/Paclitaxel 
with paclitaxel desensitization. She tolerated treatment well. 
She was instructed to take dexamethasone 4mg bid x2 days and 
Compazine 10mg bid x2 days and to avoid ondansetron for three 
days. She will follow up with her outpatient team as previously 
planned. 

# Encounter for chemotherapy
# Hypersensitivity to Paclitaxel
Premedicated with 10mg cetirizine, 25mg IV Benadryl, 12mg IV
dexamethasone, 20mg IV famotidine. Paclitaxel given per 3 bag 
desens protocol per OMS without event. ADR kit was available prn 
allergic reaction. She then received carboplatin infusion per 
OMS ordeset. Antiemetics: Fosaprepitant/Palonosetron/Dex D1; PO 
dex 4mg bid and compazine bid x2 day; prn compazine, prn 
lorazepam, prn Zofran. She may use Ibuprofen for myalgias 
starting D3-D6

# Recurrent ovarian cancer
Here for C2 Carboplatin/Paclitaxel, as above. No bevacizumab 
given history of SBO. Plan for 3 total cycles with repeat 
imaging to evaluate for debulking surgery; consideration of PARP 
inhibitor after 6 total cycles

# Neuropathy
Stable; con't to monitor

# HTN
Con't home valsartan

TRANSITIONAL ISSUES:
- Dexamethasone 4mg bid x2 days
- Compazine 10mg bid x2 days 
- Avoid Zofran x3 days
- Then Compazine/Zofran prn

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5 mg PO Q6H:PRN nausea/vomiting/anxiety/insomnia 
2. Multivitamins 1 TAB PO DAILY 
3. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
4. Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting 
5. Valsartan 40 mg PO DAILY 
6. Dexamethasone 4 mg PO ASDIR 

 
Discharge Medications:
1.  Dexamethasone 4 mg PO ASDIR  
2.  LORazepam 0.5 mg PO Q6H:PRN nausea/vomiting/anxiety/insomnia 
 
3.  Multivitamins 1 TAB PO DAILY  
4.  Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting  
5.  Valsartan 40 mg PO DAILY  
6. HELD- Ondansetron 8 mg PO Q8H:PRN nausea/vomiting  This 
medication was held. Do not restart Ondansetron until 3 days 
after chemotherapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Encounter for chemotherapy
# Hypersensitivity to paclitaxel
# Ovarian cancer
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. You were admitted for your scheduled 
chemotherapy with desensitization protocol, which you tolerated 
well. Please take the dexamethasone and compazine twice daily 
for the next two days. You should follow up with Dr. ___ as 
previously planned. 

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___